US04005103
The procedure of Example IX using 24.3 g of 1-cyclopropyl-3-(p-chlorophenyl)prop-2-en-1-one, 11 ml of nitroethane and 1.5 g of sodium in 120 ml of methanol, gives 25 g of 1-cyclopropyl-3-(p-chlorophenyl)-4-nitropentanone as an oily residue which is used in the crude state for the remainder of the operations.

reactant | 1-cyclopropyl-3-(p-chlorophenyl)prop-2-en-1-one | 24.3 g | C1(CC1)C(C=CC1=CC=C(C=C1)Cl)=O | C12H11ClO
reactant | nitroethane | 11 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium | 1.5 g | [Na] | Na
reactant | methanol | 120 ml | CO | CH4O
product | 1-cyclopropyl-3-(p-chlorophenyl)-4-nitropentanone | 25 g | C1(CC1)CC(C(C(C)[N+](=O)[O-])C1=CC=C(C=C1)Cl)=O | C14H16ClNO3
